US07816557B2
3-(4-{1-[6-(4-tert-butyl-phenyl)-pyridin-3-yloxy]-5-methyl-hexyl}-benzoylamino)-propionic acid, Isomer 2
The title compounds are prepared in a manner substantially similar to Example 62 starting from 3-{4-[1-(6-chloro-pyridin-3-yloxy)-5-methyl-hexyl]-benzoylamino}-propionic acid methyl ester and 4-tert-butyl phenyl boronic acid. Isomer 1 MS: 515.2 [M−H]−; Isomer 2 MS: 515.2 [M−H]−.

reactant | 3-{4-[1-(6-chloro-pyridin-3-yloxy)-5-methyl-hexyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(C)C)OC=1C=NC(=CC1)Cl)=O)=O | C23H29ClN2O4
reactant | 4-tert-butyl phenyl boronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 3-(4-{1-[6-(4-tert-butyl-phenyl)-pyridin-3-yloxy]-5-methyl-hexyl}-benzoylamino)-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=N1)OC(CCCC(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C32H40N2O4
